US07723368B2
Step 2) 1-Bromo-3-[3-(2-fluoro-ethyl)-cyclobutyl]-benzene
2-[3-(3-Bromo-phenyl)-cyclobutyl]-ethanol (0.600 gm, 2.35 mmol) was dissolved in dichloromethane (10 mL) and chilled to −78° C. The solution was treated with (diethylamino)sulfur trifluoride (468 mg, 2.88 mmol) and monitored by TLC. The crude reaction was poured onto silica and purified by column chromatography (10% EtOAc in hexanes) to afford 250 mg of an oil (41%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.65-1.79 (m, 2H) 1.83-2.09 (m, 2H) 2.14-2.34 (m, 2H) 2.37-2.44 (m, 1H) 3.27-3.63 (m, 1H) 4.27-4.52 (m, 2H) 7.16-7.24 (m, 2H) 7.29-7.40 (m, 2H); MS (EI) m/z 256 [M+·].

reactant | 2-[3-(3-Bromo-phenyl)-cyclobutyl]-ethanol | 2.35 mmol, 0.600 gm | BrC=1C=C(C=CC1)C1CC(C1)CCO | C12H15BrO
reactant | (diethylamino)sulfur trifluoride | 2.88 mmol, 468 mg | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-Bromo-3-[3-(2-fluoro-ethyl)-cyclobutyl]-benzene | 250 mg, 41% | BrC1=CC(=CC=C1)C1CC(C1)CCF | C12H14BrF
